US08026234B2
Ethyl 3-(cyclopentylamino)-2-hydroxy-2-methylpropanoate:
A mixture of methyl 2-methylglycidate (3.18 g, 27 mmol) and cyclopentylamine (4 mL, 41 mmol) in ethanol (50 mL) was heated at 80° C. for 3 d. The reaction mixture was then concentrated, diluted to EtOAc, washed by NaHCO3, brine and water. Organic layer was dried, concentrated to give a residue which is used for next step without further purification (3.9 g, 60%). [M+H] calc'd for C11H21NO3, 216. found 216.

reactant | methyl 2-methylglycidate | 27 mmol, 3.18 g | CC1(CO1)C(=O)OC | C5H8O3
reactant | cyclopentylamine | 41 mmol, 4 mL | C1(CCCC1)N | C5H11N
reactant | ethanol | 50 mL | C(C)O | C2H6O
product | Ethyl 3-(cyclopentylamino)-2-hydroxy-2-methylpropanoate | C1(CCCC1)NCC(C(=O)OCC)(C)O | C11H21NO3
